US07081454B2
4-Iodo-3-(4-methyl-6-piperazin-1-yl-1H-benzoimidazol-2-yl)-1H-pyridin-2-one:
To a stirred solution of 4-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester (24 g, 43.7 mmol) was added 1,4-dioxane (750 mL) and 6 N aqueous HCl (30 mL) and the mixture was heated to 75° C. overnight. The solution was cooled to room temperature, the supernatent was poured off, and the resulting dark gummy solid was washed with anhydrous diethyl ether (3×500 mL) and dried in vacuo to give 17.7 g (93%) of the title compound as a dark solid that was used as described to prepare 4-[2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester and 4-[2-(4-Iodo-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester; LCMS (M+H)+ m/z 436. (Note: A small peak (4-chloro-pyridin-2-one) in the LC/MS shows m/z 344, 346).

reactant | 4-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-piperazine-1-carboxylic acid tert-butyl ester | 43.7 mmol, 24 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC2=C(N=C(N2)C=2C(=NC=CC2I)OC)C(=C1)C | C23H28IN5O3
reactant | HCl | 6 N, 30 mL | Cl | ClH
solvent | 1,4-dioxane | 750 mL | O1CCOCC1 | C4H8O2
product | 4-Iodo-3-(4-methyl-6-piperazin-1-yl-1H-benzoimidazol-2-yl)-1H-pyridin-2-one | 17.7 g, 93% | IC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCNCC2 | C17H18IN5O
